US08664234B2
6-[(6-Chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one was prepared by the procedure described for the synthesis of 1,5-anhydro-3-{6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl}-2,3-dideoxy-L-threo-pentitol in Example 2, substituting (1S,2S)-2-aminocyclohexanol for (3R,4S)-4-aminotetrahydro-2H-pyran-3-ol.

reactant | 1,5-anhydro-3-{6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl}-2,3-dideoxy-L-threo-pentitol | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@H]2CCOC[C@@H]2O)=O | C23H20ClN3O3
reactant | (3R,4S)-4-aminotetrahydro-2H-pyran-3-ol | N[C@@H]1[C@H](COCC1)O | C5H11NO2
product | 6-[(6-Chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](CCCC2)O)=O | C24H22ClN3O2
